US05631373
A mixture of 4,6-dimethyl-2-nitroaniline (1.66 g, 10.0 mmole) and 10% Pd/C (200 mg) in ethanol (35 mL) was hydrogenated for 2 h at room temperature under 25 psi H2. The catalyst was removed by filtration with celite and the solvent was removed by rota-evaporation to give 1.300 g (96%) of 1,2-diamino-4,5-dimethylbenzene as a brown solid. 1H NMR (CDCl3): 6.449 (s, 1H), 6.469 (s, 1H), 3.327 (br, 2H), 3.259 (br, 2H), 2.190 (s, 3H), 2.159 (s, 3H).

reactant | 4,6-dimethyl-2-nitroaniline | 10.0 mmole, 1.66 g | CC1=CC(=C(N)C(=C1)C)[N+](=O)[O-] | C8H10N2O2
reactant | ethanol | 35 mL | C(C)O | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 1,2-diamino-4,5-dimethylbenzene | 1.300 g, 96% | NC1=C(C=C(C(=C1)C)C)N | C8H12N2
